US06982274B2
3-Benzo[b]thiophen-2-yl-5-bromo-6-fluoro-1H-indazole
A total of 5.7 g of benzo[b]thiophen-2-yl-(5-bromo-2,4-difluorophenyl)methanone obtained in Production Example II-16-a was allowed to react with hydrazine monohydrate by the procedure of Production Example II-10-c and thereby yielded 0.6 g of the title compound as a colorless powder.

reactant | benzo[b]thiophen-2-yl-(5-bromo-2,4-difluorophenyl)methanone | 5.7 g | S1C2=C(C=C1C(=O)C1=C(C=C(C(=C1)Br)F)F)C=CC=C2 | C15H7BrF2OS
reactant | hydrazine monohydrate | O.NN
product | 3-Benzo[b]thiophen-2-yl-5-bromo-6-fluoro-1H-indazole | 0.6 g | S1C2=C(C=C1C1=NNC3=CC(=C(C=C13)Br)F)C=CC=C2 | C15H8BrFN2S
